US08304443B2
Ethyl6-benzyloxy-1-(tetrahydro-2H-pyran-2-yl)-indazole-3-carboxylate
Ethyl6-hydroxy-1-(tetrahydro-2H-pyran-2-yl)-indazole-3-carboxylate (148 mg) which can be prepared according to the method described in Reference example 20, etc. was dissolved in dehydrated DMF (5.2 mL; manufactured by Kanto Chemical Co., Inc.), added with potassium carbonate (227 mg; manufactured by Sigma-Aldrich Co.) and benzyl bromide (73.6 μL; manufactured by Wako Pure Chemical Industries, Ltd.), followed by stirring for overnight at 60° C. After cooling to room temperature, the reaction solution was added to water, and then extraction was carried out twice with ethyl acetate. The organic layer was washed twice with water and once with ethyl acetate, and dried over anhydrous sodium sulfate. After the solvent was evaporated under reduced pressure, the residue was purified by column chromatography “COLUMN-A”; n-hexane:ethyl acetate=95:5→74:26) to obtain the title compound (187 mg).

reactant | Ethyl6-hydroxy-1-(tetrahydro-2H-pyran-2-yl)-indazole-3-carboxylate | 148 mg | C(C)OC(=O)C1=NN(C2=CC(=CC=C12)O)C1OCCCC1 | C15H18N2O4
reactant | potassium carbonate | 227 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 73.6 μL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | DMF | 5.2 mL | CN(C)C=O | C3H7NO
product | Ethyl6-benzyloxy-1-(tetrahydro-2H-pyran-2-yl)-indazole-3-carboxylate | 187 mg | C(C)OC(=O)C1=NN(C2=CC(=CC=C12)OCC1=CC=CC=C1)C1OCCCC1 | C22H24N2O4
